US05324840
Ethyl 5-methyl-2-thiophenecarboxylate
To a stirred solution of 15.9 g (77.4 mmol) of 1,3-dicyclohexylcarbodiimide in 40 mL dichloromethane was added 10 g (70.3 mmol) of 5-methyl-2-thiophenecaboxylic acid and 4.85 g (105.5 mmol) of anhydrous ethanol. 0.86 g of dimethylaminopyridine was then added and the suspension stirred at room temperature for 20 hours. The resulting white precipitate was removed by filtration. The filtrate was washed with water, dried (MgSO4), filtered and concentrated under reduced pressure. The residue was purified by bulb-to-bulb distillation (bp=95° C. 3 mm Hg) to give the title compound as a clear, pale yellow oil.

reactant | 1,3-dicyclohexylcarbodiimide | 77.4 mmol, 15.9 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 5-methyl-2-thiophenecaboxylic acid | 70.3 mmol, 10 g | CC1=CC=C(S1)C(=O)O | C6H6O2S
reactant | ethanol | 105.5 mmol, 4.85 g | C(C)O | C2H6O
reactant | dimethylaminopyridine | 0.86 g | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | Ethyl 5-methyl-2-thiophenecarboxylate | CC1=CC=C(S1)C(=O)OCC | C8H10O2S
